US05756546
Preparation of the nimesulide-L-lysine-γ-CD inclusion complex by nebulization
3 g of nimesulide (9.73×10-3 mole) are suspended in 200 ml of distilled water to which 3.2 g of L-lysine (1.95×10-2 mole) are added. The suspension is subjected to ultrasound for 5 minutes and then heated to 50° C. while violent agitation is maintained [Ultraturrax (registered mark)]. 13.88 g of γ-CD·7H2O (9.73×10-3 mole) are dispersed in 200 ml of distilled water and heated to 50° C. The suspension of γ-CD is added to the suspension of nimesulide+L-lysine. The agitation is continued for 15 minutes. An orangy solution is obtained. This solution is nebulized (Niro Atomizer Mobile atomizer) in the following conditions:

reactant | nimesulide | 9.73×10-3 mole, 3 g | CS(=O)(=O)NC=1C=CC(=CC1OC=2C=CC=CC2)[N+](=O)[O-] | C13H12N2O5S
reactant | L-lysine | 1.95×10-2 mole, 3.2 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | γ-CD | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O40
reactant | nimesulide L-lysine | CS(=O)(=O)NC=1C=CC(=CC1OC=2C=CC=CC2)[N+](=O)[O-].N[C@@H](CCCCN)C(=O)O
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | nimesulide L-lysine γ-CD | CS(=O)(=O)NC=1C=CC(=CC1OC=2C=CC=CC2)[N+](=O)[O-].N[C@@H](CCCCN)C(=O)O.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C48H80O40.C13H12N2O5S.C6H14N2O2/c49-1-9-33-17(57)25(65)41(73-9)82-34-10(2-50)75-43(27(67)19(34)59)84-36-12(4-52)77-45(29(69)21(36)61)86-38-14(6-54)79-47(31(71)23(38)63)88-40-16(8-56)80-48(32(72)24(40)64)87-39-15(7-55)78-46(30(70)22(39)62)85-37-13(5-53)76-44(28(68)20(37)60)83-35-11(3-51)74-42(81-33)26(66)18(35)58;1-21(18,19)14-12-8-7-10(15(16)17)9-13(12)20-11-5-3-2-4-6-11;7-4-2-1-3-5(8)6(9)10/h9-72H,1-8H2;2-9,14H,1H3;5H,1-4,7-8H2,(H,9,10)/t9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-,43-,44-,45-,46-,47-,48-;;5-/m1.0/s1
